US07622583B2
4-tert-Butyl-N-[5-chloro-2-(2-methyl-pyridin-3-yloxy)-pyridin-3-yl]-benzenesulfonamide
A 5 mL pear-shaped flask was charged with N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide (134 mg, 0.30 mmol), 4-methyl-pyridin-3-ol (100 mg, 0.90 mmol), potassium carbonate (250 mg, 18.0 mmol), and DMA (0.9 mL). The heterogeneous mixture was heated to 150° C. and stirred overnight. The crude reaction mixture was subsequently purified via reverse phase HPLC (Column: Varian Dynamax 250×21.4 mm Microsorb100-8 C18, 0.1% TFA/H2O (Eluent A): 0.1% TFA/MeCN (Eluent B)): 1H NMR (400 MHz, CDCl3) δ 8.06 (d, 1 H), 7.95 (d, 1 H), 7.76 (d, 2H), 7.73 (d, 1 H), 7.50 (d, 2H), 7.12 (d, 1 H), 7.04 (dd, 1 H), 2.55 (s, 3H), 1.34 (s, 9H); MS (ES) M+H expect 432.1, found 432.5.

reactant | N-(2-bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | 0.30 mmol, 134 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
reactant | 4-methyl-pyridin-3-ol | 0.90 mmol, 100 mg | CC1=C(C=NC=C1)O | C6H7NO
reactant | potassium carbonate | 18.0 mmol, 250 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMA | 0.9 mL | CC(=O)N(C)C | C4H9NO
product | 4-tert-Butyl-N-[5-chloro-2-(2-methyl-pyridin-3-yloxy)-pyridin-3-yl]-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)OC=1C(=NC=CC1)C | C21H22ClN3O3S
